US08492548B2
2-Bromo-1-(4-hydroxyphenyl)ethanone (256 mg, 1.19 mmol) was added to a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (400 mg, 1.19 mmol) in EtOAc (15 ml). The resulting reaction was stirred at room temperature for 15 hours. The solvent was removed under vacuum, and the residue was triturated with Et2O to obtain (R)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (655 mg, 100% yield).

reactant | 2-Bromo-1-(4-hydroxyphenyl)ethanone | 1.19 mmol, 256 mg | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 1.19 mmol, 400 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | (R)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 655 mg, 100% yield | [Br-].OC1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C29H30N2O4.BrH/c32-25-13-11-21(12-14-25)26(33)19-31-17-15-22(16-18-31)27(20-31)35-29(34)28(23-7-3-1-4-8-23)30-24-9-5-2-6-10-24;/h1-14,22,27-28,30H,15-20H2;1H/t22?,27-,28+,31?;/m0./s1
